US05663440
In a 3-liter four-necked flask equipped with a stirring device, a thermometer, a condenser and a nitrogen substituting device, 34.39 g of 1,4-bis(4-(4-nitrobenzoyl)phenylmethyl) benzene was dissolved in 1000 milliliters of dichloromethane, and a solution of 37.8 g of titanium tetrachloride in 50 milliliters of dichloromethane was added dropwise for 1 hour with ice cooling. Subsequently, a solution of 41.46 g of triethylsilane in 50 milliliters of dichloromethane was added for 1 hour. 30 minutes after the end of the dropwise addition, stirring was carried out for 7 hours with ice cooling. After the end of the reaction was confirmed by a liquid chromatography, the reaction solution was neutralized with an aqueous solution of sodium carbonate and then washed with water. After removing off dichloromethane by a rotary evaporator, the solution was dissolved in chloroform, treated with an alumina column, and removed off the solvent from the solute. By recrystallizing the concentrate from an ethyl acetate solvent, 26.48 g of 1,4-bis(4-(4-nitrophenylmethyl)phenylmethyl)benzene was obtained as crystals.

reactant | 1,4-bis(4-(4-nitrobenzoyl)phenylmethyl) benzene | 34.39 g | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(C=C2)CC2=CC=C(C=C2)CC2=CC=C(C=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C34H24N2O6
reactant | triethylsilane | 41.46 g | C(C)[SiH](CC)CC | C6H16Si
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 1000 milliliters | ClCCl | CH2Cl2
solvent | dichloromethane | 50 milliliters | ClCCl | CH2Cl2
solvent | dichloromethane | 50 milliliters | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 37.8 g | [Ti](Cl)(Cl)(Cl)Cl
product | 1,4-bis(4-(4-nitrophenylmethyl)phenylmethyl)benzene | 26.48 g | [N+](=O)([O-])C1=CC=C(C=C1)CC1=CC=C(C=C1)CC1=CC=C(C=C1)CC1=CC=C(C=C1)CC1=CC=C(C=C1)[N+](=O)[O-] | C34H28N2O4
